US04665174
Into the same flask as used in Example 1, 2-allyl-3-hydroxy-3-methyl-4-cyclopentenone (0.1 mol; 1 part), 2-cis-pentenol (5 parts) and sodium hydride (1/30 part) were charged, and the mixture was stirred at a temperature of 10° to 15° C. for 1 hour. After completion of the reaction, the mixture was neutralized with 1N HCl and extracted with toluene. Toluene was evaporated off from the organic layer to obtain 2-allyl-3-methyl-4-(2-cis-pentenyloxy)-2-cyclopentenone, which was purified by chromatography. Yield, 97%. nD20 1.4946.

reactant | 2-allyl-3-hydroxy-3-methyl-4-cyclopentenone | 0.1 mol | C(C=C)C1C(C=CC1(C)O)=O | C9H12O2
reactant | 2-cis-pentenol | C(=C/CCC)/O | C5H10O
reactant | sodium hydride | [H-].[Na+]
reactant | HCl | 1N | Cl | ClH
product | 2-allyl-3-methyl-4-(2-cis-pentenyloxy)-2-cyclopentenone | C(C=C)C=1C(CC(C1C)O\C=C/CCC)=O | C14H20O2
